US04053312
A. 4-(N,N-didodecylsulfamyl)-1-naphthol
A mixture of 18.1 g (0.063 mole) 1-acetoxy-4-naphthalenesulfonyl chloride, 22.4 g (0.063 mole) N,N-didodecylamine, 25 ml (18.1 g, 0.18 mole) triethylamine, and 200 ml acetonitrile was stirred at room temperature for 18 hrs. The mixture was diluted with ether and poured into water. The ether layer was separated, dried, and concentrated to 16.1 g of an amber oil, which was dissolved in 100 ml ethanol. To the solution was added 1.50 g (0.027 mole) potassium hydroxide; the mixture was stirred at room temperature for 2 days, acidified with hydrochloric acid, and diluted with water. The mixture was extracted with ether, and the extract was concentrated to 30.7 g of an amber oil, which partially crystallized.

reactant | 1-acetoxy-4-naphthalenesulfonyl chloride | 0.063 mole, 18.1 g | C(C)(=O)OC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C12H9ClO4S
reactant | N,N-didodecylamine | 0.063 mole, 22.4 g | C(CCCCCCCCCCC)NCCCCCCCCCCCC | C24H51N
reactant | triethylamine | 0.18 mole, 25 ml, 18.1 g | C(C)N(CC)CC | C6H15N
reactant | potassium hydroxide | 0.027 mole, 1.50 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-(N,N-didodecylsulfamyl)-1-naphthol | C(CCCCCCCCCCC)N(S(=O)(=O)C1=CC=C(C2=CC=CC=C12)O)CCCCCCCCCCCC | C34H57NO3S
